US05718998
0.28 g (0.007 mol) of solid sodium hydride is added to a suspension of 0.5 g (0.00175 mol) of 1,4-diketo-2,5-dihydro-3,6-diphenyl-pyrrolo[3,4-c]pyrrole in 17 ml of tetrahydrofuran in an argon atmosphere. After the resulting mixture is stirred for 24 hours, 0.67 ml (0.007 mol) of n-butyl chloroformate is added thereto, and the resulting suspension is stirred overnight. The mixture is filtered, and the filtrate is concentrated under reduced pressure. The residue is taken into water/diethyl ether, and the organic phase is dried over MgSO4 and then concentrated under reduced pressure. The residue is taken into n-hexane, and the yellow powder precipitated is collected by filtration, washed with a small amount of n-hexane to give 0.62 g (73% of the theoretical value) of N,N'-bis(n-butoxycarbonyl)-1,4-diketo-2,5-dihydro-3,6-diphenyl-pyrrolo[3,4-c]pyrrole as a yellow fluorescent powder.

reactant | sodium hydride | [H-].[Na+]
reactant | 1,4-diketo-2,5-dihydro-3,6-diphenyl-pyrrolo[3,4-c]pyrrole | 0.00175 mol, 0.5 g | O=C1NC(=C2C1=C(NC2=O)C2=CC=CC=C2)C2=CC=CC=C2 | C18H12N2O2
reactant | n-butyl chloroformate | 0.007 mol, 0.67 ml | ClC(=O)OCCCC | C5H9ClO2
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
product | N,N'-bis(n-butoxycarbonyl)-1,4-diketo-2,5-dihydro-3,6-diphenyl-pyrrolo[3,4-c]pyrrole | C(CCC)OC(=O)N1C(C2=C(N(C(C2=C1C1=CC=CC=C1)=O)C(=O)OCCCC)C1=CC=CC=C1)=O | C28H28N2O6
